US08859580B2
2-Benzyl-2-aza-bicyclo[3.3.1]nonan-6-one
Dess-Martin periodinane (1.30 g) is added to a solution of 2-benzyl-2-aza-bicyclo[3.3.1]-nonan-6-ol (0.60 g) in dichloromethane (15 mL) chilled in an ice bath. The cooling bath is removed and the solution is stirred at ambient temperature for 1 h. Then, the solution is diluted with dichloromethane and washed with a mixture of aqueous Na2S2O3 solution and aqueous NaHCO3 solution. The solution is dried (Na2SO4) and the solvent is removed. The residue is purified by chromatography on silica gel (dichloromethane/methanol 1:0->2:1).

reactant | Dess-Martin periodinane | 1.30 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | 2-benzyl-2-aza-bicyclo[3.3.1]-nonan-6-ol | 0.60 g | C(C1=CC=CC=C1)N1C2CCC(C(CC1)C2)O | C15H21NO
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 2-Benzyl-2-aza-bicyclo[3.3.1]nonan-6-one | C(C1=CC=CC=C1)N1C2CCC(C(CC1)C2)=O | C15H19NO
